Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][H:7]>>[C:5][O:6][H:7].[H:1][C:2]#[C:3][H:4],0.93221715824
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[H:8]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[H:8].[O:1],2.74224381611
[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.93469978638
[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7]>>[O:1][C:2][C:3].[O:4][C:5]#[C:6][H:7],1.8668891326900003
[C:3]([H:4])=[C:5]([H:6])[H:7].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],-6.13181919665
[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4]=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12].[O:5][H:6],6.46626671351
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:7],1.65301887099
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],3.87163828165
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][O:8][H:9].[H:6],2.42275404163
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],4.37047163251
[H:9].[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.01278409927
[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-6.43819229
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],4.96611859109
[C:13]([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.22028826661
[C:1]#[C:2].[H:3]>>[C:1]#[C:2][H:3],-5.604062279219999
[C:9]=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-3.6410247122
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4][H:5],8.15296334759
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.93307670956
[C:6]([H:7])[H:8].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-8.58498747232
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.4060653941800005
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[O:4])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-3.20547415992
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.2100075219
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-7.632939994860001
[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13].[O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-0.7104365010089999
[H:11].[H:1]/[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.95555057278
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3],4.420436223209999
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.52419389737
[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.66497716747
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],5.15227051878
